US07034039B2
2-(3-{[(Tert-butoxycarbonyl-)amino]methyl}-2-isobutyl-1-oxo-4-phenyl-1,2-dihydro-6-isoquinolinyl)-4-methyl-1,3-thiazole-5-carboxylic acid (0.17 g, 0.3 mmol) was dissolved in a solution of 4N hydrogen chloride in ethyl acetate (5 ml). The solution was stirred at room temperature for 1 h. The reaction mixture was concentrated under reduced pressure, and the residue was crystallized from ethyl acetate to give 2-[3-(aminomethyl)-2-isobutyl-1-oxo-4-phenyl-1,2-dihydro-6-isoquinolinyl-]4-methyl-1,3-thiazole-5-carboxylic acid hydrochloride (0.12 g, 92.3%) as crystals.

reactant | 2-(3-{[(Tert-butoxycarbonyl-)amino]methyl}-2-isobutyl-1-oxo-4-phenyl-1,2-dihydro-6-isoquinolinyl)-4-methyl-1,3-thiazole-5-carboxylic acid | 0.3 mmol, 0.17 g | C(C)(C)(C)OC(=O)NCC=1N(C(C2=CC=C(C=C2C1C1=CC=CC=C1)C=1SC(=C(N1)C)C(=O)O)=O)CC(C)C | C30H33N3O5S
reactant | hydrogen chloride | 4N | Cl | ClH
solvent | ethyl acetate | 5 ml | C(C)(=O)OCC | C4H8O2
product | 2-[3-(aminomethyl)-2-isobutyl-1-oxo-4-phenyl-1,2-dihydro-6-isoquinolinyl-]4-methyl-1,3-thiazole-5-carboxylic acid hydrochloride | 0.12 g, 92.3% | Cl.NCC=1N(C(C2=CC=C(C=C2C1C1=CC=CC=C1)C=1SC(=C(N1)C)C(=O)O)=O)CC(C)C | InChI=1S/C25H25N3O3S.ClH/c1-14(2)13-28-20(12-26)21(16-7-5-4-6-8-16)19-11-17(9-10-18(19)24(28)29)23-27-15(3)22(32-23)25(30)31;/h4-11,14H,12-13,26H2,1-3H3,(H,30,31);1H
